US08735384B2
To a 50-mL RBF was added 2-bromo-N-(2-(tert-butyldimethylsilyloxy)ethyl)-3-methylaniline (1.43 g, 4.15 mmol) and THF (10 mL). A solution of TBAF (1.0M in THF; 4.98 mL, 4.98 mmol) was added dropwise at RT. The reaction mixture was allowed to stir for 1.5 h at RT. The solvent was removed under reduced pressure. The remaining residue was purified by flash chromatography (5-60% EtOAc/hexanes). 2-(2-Bromo-3-methylphenylamino)ethanol was isolated as a clear yellow oil.

reactant | 2-bromo-N-(2-(tert-butyldimethylsilyloxy)ethyl)-3-methylaniline | 4.15 mmol, 1.43 g | BrC1=C(NCCO[Si](C)(C)C(C)(C)C)C=CC=C1C | C15H26BrNOSi
reactant | TBAF | 4.98 mmol, 1.0M, 4.98 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-Bromo-3-methylphenylamino)ethanol | BrC1=C(C=CC=C1C)NCCO | C9H12BrNO
